US07378410B2
To a stirred solution of [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl]-carbamic acid tert-butyl ester (5.0 g, 11.1 mmol) in CH2Cl2 (50 mL) at −78° C. is added trimethylsilyl iodide (2.8 g, 14.0 mmol) neat. After 30 min the reaction solution is warmed to 0° C. and stirred for 15 min. The reaction is quenched with a solution of CH3OH (25 mL) and NH4HCO3 (10 mL, saturated in H2O), and partitioned with H2O/CH2Cl2. The CH2Cl2 fraction is dried over Na2SO4 and evaporated to a gum and chromatographed on silica (95% CH2Cl2/5% CH3OH) to give 3.6 g (92.6%) of (3S,6R)-3-amino-6-(tert-butyl-dimethyl-silanyloxy)-1-pyridin-3-ylmethyl-azepan-2-one as a white solid. MS (ESI) 350.2 (M+H)+

reactant | [(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl]-carbamic acid tert-butyl ester | 11.1 mmol, 5.0 g | C(C)(C)(C)OC(N[C@@H]1C(N(C[C@@H](CC1)O[Si](C)(C)C(C)(C)C)CC=1C=NC=CC1)=O)=O | C23H39N3O4Si
reactant | trimethylsilyl iodide | 14.0 mmol, 2.8 g | C[Si](C)(C)I | C3H9ISi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (3S,6R)-3-amino-6-(tert-butyl-dimethyl-silanyloxy)-1-pyridin-3-ylmethyl-azepan-2-one | 3.6 g, 92.6% | N[C@@H]1C(N(C[C@@H](CC1)O[Si](C)(C)C(C)(C)C)CC=1C=NC=CC1)=O | C18H31N3O2Si
